US04567179
Doxepin hydrochloride (10 g., 0.032 mol) was dissolved in 50 ml. H2O. Sodium bicarbonate (3.2 g., 0.038 mol) suspended in 25 ml. of H2O was added with stirring, and the mixture stirred for 20 minutes and then extracted 3×50 ml. ether. The ether extracts were combined, dried (Na2SO4) and evaporated in vacuo to yield doxepin as an oil (8.33 g.).

reactant | Doxepin hydrochloride | 0.032 mol, 10 g | CN(C)CCC=C1C=2C=CC=CC2COC3=C1C=CC=C3.Cl
reactant | Sodium bicarbonate | 0.038 mol, 3.2 g | C([O-])(O)=O.[Na+]
solvent | H2O | O | H2O
product | doxepin | CN(C)CCC=C1C=2C=CC=CC2COC3=C1C=CC=C3 | C19H21NO
